US08183240B2
Step 4: Ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-iodothiophene-2-carboxylate
To a suspension of ethyl 5-amino-4-cyano-3-(2,4-dichlorophenyl)thiophene-2-carboxylate (2.92 g, 0.00856 mol) in acetonitrile (10 mL) was added diiodomethane (2.41 mL, 0.0300 mol) under an atmosphere of argon and was heated at 38° C. Isoamyl nitrite (2.61 g, 0.0214 mol) was added dropwise and the reaction mixture was cooled to room temperature and stirred for one hour. The reaction was concentrated in vacuo and column chromatography was performed to yield the title compound (1.44 g, 37%) as an orange solid. 1H NMR (400 MHz, d1-chloroform) δ: 7.53 (d, 1H, J=2.00 Hz), 7.38-7.34 (m, 1H), 7.21 (d, 1H, J=8.28 Hz), 4.25-4.15 (m, 2H), 1.21-1.16 (m, 3H).

reactant | ethyl 5-amino-4-cyano-3-(2,4-dichlorophenyl)thiophene-2-carboxylate | 0.00856 mol, 2.92 g | NC1=C(C(=C(S1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl)C#N | C14H10Cl2N2O2S
reactant | diiodomethane | 0.0300 mol, 2.41 mL | ICI | CH2I2
reactant | Isoamyl nitrite | 0.0214 mol, 2.61 g | N(=O)OCCC(C)C | C5H11NO2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Ethyl 4-cyano-3-(2,4-dichlorophenyl)-5-iodothiophene-2-carboxylate | 1.44 g, 37% | C(#N)C=1C(=C(SC1I)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C14H8Cl2INO2S
